US04080342
To a suitable reactor equipped with temperature controlling means and stirring means, there are charged, while maintaining the temperature at about room temperature, N-chlorosuccinimide (about 0.30 mole) in 400 ml of benzene and 1-phenylethanethiol (about 0.30 mole) in 50 ml of benzene. After stirring the reaction mixture 10 minutes, triethylamine (0.32 mole) in 50 ml of benzene is added dropwise. The benzene mixture is stirred one hour and then filtered. The filtrate is washed three times with 250 ml portions of water and then subjected to vacuum with heating to strip off volatile components. A crystalline residue is recrystallized from ethanol to give 26 grams of N-(α-methylbenzylthio)succinimide, m.p. 121-125°C.

reactant | N-chlorosuccinimide | about 0.30 mole | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 1-phenylethanethiol | about 0.30 mole | C1(=CC=CC=C1)C(C)S | C8H10S
reactant | triethylamine | 0.32 mole | C(C)N(CC)CC | C6H15N
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-(α-methylbenzylthio)succinimide | 26 grams | CC(C1=CC=CC=C1)SN1C(CCC1=O)=O | C12H13NO2S
